US04778796
Preparation of 3-(3-pyridyl)propionic acid:
A mixture of 5.0 g of 3-(3-pyridyl)acrylic acid, 0.4 g of 10% palladium on activated carbon, 150 ml of methanol, and 50 ml of dimethylformamide is hydrogenated at room temperature and atmospheric pressure. After removal of the catalyst by filtration, the filtrate is concentrated to give 5.1 g of the title compound.

reactant | 3-(3-pyridyl)acrylic acid | 5.0 g | N1=CC(=CC=C1)C=CC(=O)O | C8H7NO2
reactant | methanol | 150 ml | CO | CH4O
catalyst | palladium on activated carbon | 0.4 g | [Pd] | Pd
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 3-(3-pyridyl)propionic acid | 5.1 g | N1=CC(=CC=C1)CCC(=O)O | C8H9NO2
